US06297375B1
d) [4-(2-Chloro-phenyl)-pyridin-3-yl]-methyl-amine
A solution of 14.9 g (72.8 mmol) 4-(2-chloro-phenyl)-pyridin-3-ylamine in 80 ml trimethyl orthoformate and 5 drops trifluoroacetic acid was heated for 2.5 h at 130° C. The reaction mixture was evaporated and dried in vacuo for 30 min. The residual oil was dissolved in 130 ml tetrahydrofuran and 220 ml (220 mmol) of 1 M borane-tetrahydrofuran complex were added dropwise under ice cooling. After stirring overnight at room temperature, the reaction mixture was evaporated, cooled to 0° C. and 130 ml 5 N hydrochloric acid solution in ethanol were added carefully. The solution was refluxed for 1 h, cooled to room temperature again and crushed ice was added. The aqueous phase was washed with three 100 ml portions diethyl ether and the organic layers were extracted with 100 ml 1 N hydrochloric acid solution. The combined aqueous layers were adjusted to pH 8-9 by addition of concentrated sodium hydroxide solution and were extracted with three 500 ml portions ethyl acetate. The combined organic extracts were dried (magnesium sulfate), evaporated and the solid residue was recrystallized from hexane/ethyl acetate to give 12.3 g (77%) of the title compound as white crystals.

reactant | 4-(2-chloro-phenyl)-pyridin-3-ylamine | 72.8 mmol, 14.9 g | ClC1=C(C=CC=C1)C1=C(C=NC=C1)N | C11H9ClN2
reactant | trimethyl orthoformate | 80 ml | C(OC)(OC)OC | C4H10O3
catalyst | trifluoroacetic acid | 5 drops | FC(C(=O)O)(F)F | C2HF3O2
product | [4-(2-Chloro-phenyl)-pyridin-3-yl]-methyl-amine | 12.3 g, 77% | ClC1=C(C=CC=C1)C1=C(C=NC=C1)NC | C12H11ClN2
